Laboratório 2
* NGSPICE simulation script
* BJT amp with feedback
*

* forces current values to be saved
.options savecurrents

* supply voltage
Va 1 0 0
* capacitor
Vd 6 8 8.677386

*resistors
Rr1 1 2 1.03835624717k
Rr2 3 2 2.03980117275k
Rr3 2 5 3.02589288375k
Rr4 5 0 4.09496586064k
Rr5 5 6 3.11837790188k
Rr6 0 7 2.06517135248k
Rr7 9 8 1.01138577854k

*dummy voltage source
Vdu 7 9 0

*dependent voltage source
Hvc 5 8 Vdu 8.24825537187k

*dependent current source
Gib 6 3 (2,5) 7.20092310025m

.control

op

echo "********************************************"
echo  "Operating point"
echo "********************************************"

echo "op_TAB"
print all
echo "op_END"

quit
.endc

.end

